US03970704
A mixture of 1 g. of trans methyl 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoate, 60 ml. of methanol, 0.5 g. of potassium hydroxide and 6 ml. of water is heated at reflux for about 8 hours. The mixture is then diluted with water, neutralized and extracted with ether. The organic phase is washed with water, dried over sodium sulfate and evaporated to yield trans 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoic acid.

reactant | trans methyl 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoate | C(C)OC(CCCC(C/C=C/C(=CC(=O)OC)C)C)(C)C | C18H32O3
reactant | methanol | CO | CH4O
reactant | potassium hydroxide | [OH-].[K+]
solvent | water | O | H2O
product | trans 11-ethoxy-3,7,11-trimethyldodeca-2,4-dienoic acid | C(C)OC(CCCC(C/C=C/C(=CC(=O)O)C)C)(C)C | C17H30O3
